US06288059B1
2-[(2R)-(3,4-dichlorophenyl)-4-(cyclobutanecarbonyl)morpholin-2-yl]ethanol methanesulfonate
Methanesulfonyl chloride (0.071 ml, 0.92 mmol) and 4-dimethylaminopyridine (catalytic amount) were added to a solution of 2-[(2R)-(3,4-dichlorophenyl)-4-(cyclobutanecarbonyl)morpholin-2-yl]ethanol (219 mg, 0.61 mmol), which was prepared in Example 1(a), in pyridine (2 ml) with ice-cooling under a nitrogen atmosphere. The mixture was stirred at the same temperature for 30 minutes. The reaction mixture was acidified with ice-cooled hydrochloric acid (10%) and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The ethyl acetate was distilled off under reduced pressure. The residue was purified by silica gel thin layer chromatography using n-hexane/ethyl acetate=¼ as a developing solvent to afford the desired compound (255 mg, 96%) as a white amorphous solid.

reactant | Methanesulfonyl chloride | 0.92 mmol, 0.071 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[(2R)-(3,4-dichlorophenyl)-4-(cyclobutanecarbonyl)morpholin-2-yl]ethanol | 0.61 mmol, 219 mg | ClC=1C=C(C=CC1Cl)C1N(CCO[C@@H]1CCO)C(=O)C1CCC1 | C17H21Cl2NO3
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(2R)-(3,4-dichlorophenyl)-4-(cyclobutanecarbonyl)morpholin-2-yl]ethanol methanesulfonate | 255 mg, 96% | CS(=O)(=O)OCC[C@@H]1C(N(CCO1)C(=O)C1CCC1)C1=CC(=C(C=C1)Cl)Cl | C18H23Cl2NO5S
